US07745635B1
To a preweighed Erlenmeyer flask, 1.0303 g, 4.7 mmol, of 1-ethyl-4-amino-1,2,4-triazolium bromide was measured out under nitrogen conditions. Methanol, 25 ml, was added to dissolve the salt, resulting in a clear solution, homogeneous. In a second preweighed Erlenmeyer flask, 0.8045 g, 4.7 mmol, of silver nitrate was measured out. Acetonitrile, 4 ml, was added along with 15 ml of methanol to dissolve the salt, resulting in a clear, homogeneous solution. The silver nitrate solution was added, dropwise, to the 1-methylcyclopropyl-4-amino-1,2,4-triazolium bromide solution, resulting in an immediate clouding and precipitation in the solution. The reaction mixture was allowed to stir at ambient temperature for thirty minutes. At the end of the thirty minutes the reaction mixture was filtered through a filter of celite removing the silver halide. The reaction vessel was rinsed three times, 10 ml each, with fresh methanol and the solution transferred to a 500 ml round bottom flask. The flask was placed on a rotary evaporator, the solvent was removed, leaving an oil. The oil was dissolved in a minimal amount of methanol and transferred to a preweighed Schlenk flask, placed in an oil bath at 60° C., and vacuum dried for 24 hours. The product was an oil which solidified upon standing, yield 0.9285 grams, 4.7 mmoles. Melting point 53° C., DSC onset 210° C.

reactant | 1-ethyl-4-amino-1,2,4-triazolium bromide | [Br-].C(C)[N+]=1N=CN(C1)N
reactant | Acetonitrile | C(C)#N | C2H3N
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-methylcyclopropyl-4-amino-1,2,4-triazolium bromide | [Br-].CC1(CC1)[N+]=1N=CN(C1)N | InChI=1S/C6H11N4.BrH/c1-6(2-3-6)10-5-9(7)4-8-10;/h4-5H,2-3,7H2,1H3;1H/q+1;/p-1
